US06964965B2
A 7 mL oven dried vial was charged with 3-{3,6-diethyl-5-[(1-ethylpropyl)amino]pyrazin-2-yl}-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate (100 mg 0.2 mmol), 1,3-diphenylphosphinopropane (1.65 mg, 0.004 mmol), Pd(AcO)2 (0.9 mg, 0.004 mmol), and DMF (0.5 mL). The reaction was heated to 60° C. on the orbital shaker. Triethyl silane (0.08 mL, 0.5 mmol) was added at once. A color change from yellow to dark orange was observed. The vial was re-sealed with a teflon lined cap and heated to 60° C. for 2 hours. After cooling to ambient temperature, the reaction was diluted with ethyl acetate, poured in H2O, washed once with sat. aq. NaHCO3 and once with Brine. The organic layer was dried with Na2SO4, filtered and concentrated to 120 mg of a crude oil. The crude was purified by Biotage MPLC (40 g column, toluene) to give 53 mg (76%) of 3,6-diethyl-N-(1-ethylpropyl)-5-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazin-2-amine as a clear oil. Rf 0.18 (toluene). IR (liq.) 2964, 2933, 2874, 2858, 2837, 1558, 1508, 1483, 1463, 1444, 1392, 1381, 1212, 1173, 833 cm−1. OAMS supporting ions at: ESI+352.2. Anal. Calcd for C23H33N3: C, 78.58; H, 9.46; N, 11.95. Found: C, 78.20; H, 9.25; N, 11.95.

reactant | 3-{3,6-diethyl-5-[(1-ethylpropyl)amino]pyrazin-2-yl}-5,6,7,8-tetrahydronaphthalen-2-yl trifluoromethanesulfonate | 0.2 mmol, 100 mg | FC(S(=O)(=O)OC1=CC=2CCCCC2C=C1C1=NC(=C(N=C1CC)NC(CC)CC)CC)(F)F | C24H32F3N3O3S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
reactant | Triethyl silane | 0.5 mmol, 0.08 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | O | H2O
catalyst | 1,3-diphenylphosphinopropane | 0.004 mmol, 1.65 mg | C1(=CC=CC=C1)PCCCPC1=CC=CC=C1 | C15H18P2
product | 3,6-diethyl-N-(1-ethylpropyl)-5-(5,6,7,8-tetrahydronaphthalen-2-yl)pyrazin-2-amine | 53 mg, 76% | C(C)C=1C(=NC(=C(N1)C1=CC=2CCCCC2C=C1)CC)NC(CC)CC | C23H33N3
